US07872026B2
320 μl (3.14 mmol) of 1,3-dibromopropane and 440 mg (3.18 mmol) of potassium carbonate are added to a solution of 900 mg (2.1 mmol, 1 eq) of ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate in 30 ml of methyl ethyl ketone. The reaction mixture is stirred overnight at room temperature and then for 1 day at reflux. The medium is cooled to room temperature and then filtered. The filtrate is evaporated and the residue is purified by chromatography on silica gel (eluent: 90/10 heptane/ethyl acetate). 640 mg of ethyl 4′-(3-bromopropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a white solid (yield=55%).

reactant | 1,3-dibromopropane | 3.14 mmol, 320 μl | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 3.18 mmol, 440 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 2.1 mmol, 900 mg, 1 eq | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C29H32O3
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | ethyl 4′-(3-bromopropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 640 mg | BrCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H37BrO3
